US04797401
(C) 1-(4-Amino-2-chlorophenyl)-4-(4-aminophenethyl)piperazine
1-(2-Chloro-4-nitrophenyl)-4-(4-nitrophenethyl)piperazine (1.0 g), stannous chloride dihydrate (5.7 g) and ethanol (50 ml) were stirred under reflux for 1.25 hours, the mixture was evaporated to low bulk, and added to aqueous 5% sodium hydroxide (100 ml). The mixture was then extracted three times with dichloromethane and the combined organic extracts were dried (sodium sulphate) and evaporated to yield a yellow oil which solidified: yield of the title compound 0.6 g, m.p. 109°-112°. It was used in the next stage without further purification.

reactant | 1-(2-Chloro-4-nitrophenyl)-4-(4-nitrophenethyl)piperazine | 1.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C18H19ClN4O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-Amino-2-chlorophenyl)-4-(4-aminophenethyl)piperazine | 0.6 g | NC1=CC(=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)N)Cl | C18H23ClN4
